US04029780
7-Chloro-3-(4-methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of 3.2 g of 7-chloro-3-methylthio-2H-1,2,4-benzothiadiazine 1,1-dioxide and 1.1 g of 1-methylpiperazine is heated with stirring in an oil bath at 140° C. for 2 hours. After cooling, the resultant solid is recrystallized from a mixture of dimethylformamide and water to give 3.1 g of the desired product, m.p. above 300° C.

reactant | 7-chloro-3-methylthio-2H-1,2,4-benzothiadiazine 1,1-dioxide | 3.2 g | ClC1=CC2=C(N=C(NS2(=O)=O)SC)C=C1 | C8H7ClN2O2S2
reactant | 1-methylpiperazine | 1.1 g | CN1CCNCC1 | C5H12N2
product | 7-Chloro-3-(4-methyl-1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide | 3.1 g | ClC1=CC2=C(N=C(NS2(=O)=O)N2CCN(CC2)C)C=C1 | C12H15ClN4O2S
